US04271156
A solution of acrolein (17.6 g) in anhydrous acetonitrile (45 cc) is added, at a maximum temperature of 5° C., to a suspension of triethylammonium 5-chloropyrid-2-yldithiocarbamate (91.5 g) in anhydrous acetonitrile (450 cc). The reaction is allowed to proceed for 90 minutes at a maximum temperature of 5° C. The crystals which appear are filtered off, washed with ice-cooled acetonitrile (50 cc) and then four times with distilled water (total 480 cc) and dried in air. The product obtained (38.8 g; m.p.=136°-137° C.) is purified by recrystallisation from acetonitrile (240 cc). 3-(5-Chloropyrid-2-yl)-4-hydroxyperhydro-1,3-thiazine-2-thione (33.2 g), which melts at 141° C., is obtained.

reactant | acrolein | 17.6 g | C(=O)C=C | C3H4O
reactant | triethylammonium 5-chloropyrid-2-yldithiocarbamate | 91.5 g | ClC=1C=CC(=NC1)NC([S-])=S.C(C)[NH+](CC)CC
solvent | acetonitrile | 45 cc | C(C)#N | C2H3N
solvent | acetonitrile | 450 cc | C(C)#N | C2H3N
product | 3-(5-Chloropyrid-2-yl)-4-hydroxyperhydro-1,3-thiazine-2-thione | 33.2 g | ClC=1C=CC(=NC1)N1C(SCCC1O)=S | C9H9ClN2OS2
